US06313311B1
a) 3-(3-Benzyl-3H-imidazol-4-yl)-5-methoxy-6,7-dimethylindan-1-one
A mixture of 2,3-dimethylanisole (2.0 g), 3-(3-benzyl-3H-imidazol-4-yl)-acrylic acid (3.4 g) and methanesulfonic acid (60 ml) is heated at 90-95° C. for 45 minutes. The cooled reaction mixture is poured into water and is made alkaline with sodium hydroxide solution. The product is extracted into ethyl acetate which is washed with water, dried with sodium sulfate and evaporated in reduced pressure. The crude product is purified by flash chromatography by eluting with methylene chloride-methanol solution. The yield is 1.1 g.

reactant | 2,3-dimethylanisole | 2.0 g | CC1=C(C=CC=C1C)OC | C9H12O
reactant | 3-(3-benzyl-3H-imidazol-4-yl)-acrylic acid | 3.4 g | C(C1=CC=CC=C1)N1C=NC=C1C=CC(=O)O | C13H12N2O2
reactant | methanesulfonic acid | 60 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(3-Benzyl-3H-imidazol-4-yl)-5-methoxy-6,7-dimethylindan-1-one | C(C1=CC=CC=C1)N1C=NC=C1C1CC(C2=C(C(=C(C=C12)OC)C)C)=O | C22H22N2O2
